US06057337
(1) 2-(1-Octadecyl-2-piperidyl)ethan-1-ol
Potassium carbonate (2.312 g) and 1-bromooctadecane (2.80 ml) were added to a solution of 2-(2-hydroxyethyl)piperidine (1.057 g) in acetone. The solution was stirred for 18 hours at 40° C. and was further stirred for 23 hours at 60° C. After the insoluble matter was filtrated out under a vacuum, the filtrate was concentrated. The residue was diluted with chloroform, washed with saturated sodium hydrogencarbonate aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and concentrated. The residue was purified by silica gel column chromatography (silica gel 60 g, chloroform:methanol=30:1~10:1), thereby yielding the entitled compound (1.935 g) as white solid.

reactant | Potassium carbonate | 2.312 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromooctadecane | 2.80 ml | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | 2-(2-hydroxyethyl)piperidine | 1.057 g | OCCC1NCCCC1 | C7H15NO
solvent | acetone | CC(=O)C | C3H6O
product | 2-(1-Octadecyl-2-piperidyl)ethan-1-ol | 1.935 g | C(CCCCCCCCCCCCCCCCC)N1C(CCCC1)CCO | C25H51NO
